US05744488
Benzyl (E)-3-[3-(dimethylaminomethyl)-2-methyl-1H-indol-5-yl]-2-propenoate
Dimethylamine (3.35 ml of 33% solution in methylated spirit) was added to astirred mixture of benzyl (E)-3-(2-methyl-1H-indol-5-yl)-2-propenoate (6.50g) in a mixture of acetic acid (14 ml) and tetrahydrofuran (15 ml) at 0° C., followed by the dropwise addition of formaldehyde (1.75 ml of 40% aqueous solution). The mixture was stirred at room temperature for 3 hours and then diluted with ethyl acetate. 2N sodium hydroxide was addeddropwise with stirring until the pH of the aqueous layer was ca.9. The mixture was filtered, and the residue was washed with water followed by ethyl acetate and then dried to give the title compound (6.58 g), m.p. 174°-177° C. Found: C,75.85; H,6.83; N,7.53. C22 H24N2O2 requires: C,75.83; H,6.94; N,8.04%.

reactant | Dimethylamine | 3.35 ml | CNC | C2H7N
reactant | benzyl (E)-3-(2-methyl-1H-indol-5-yl)-2-propenoate | 6.50g | CC=1NC2=CC=C(C=C2C1)/C=C/C(=O)OCC1=CC=CC=C1 | C19H17NO2
reactant | formaldehyde | 1.75 ml | C=O | CH2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl (E)-3-[3-(dimethylaminomethyl)-2-methyl-1H-indol-5-yl]-2-propenoate | 6.58 g | CN(C)CC1=C(NC2=CC=C(C=C12)/C=C/C(=O)OCC1=CC=CC=C1)C | C22H24N2O2
